US07220759B2
In the same manner as in Example 1b (a) and using ethyl (2S,4R,5R)-4,5-dimethylpyrrolidine-2-carboxylate described in Tetrahedron Lett., Vol. 34, No. 3, pp. 537–540 (1993), ethyl (2S,4R,5R)-1-tert-butoxycarbonyl-4,5-dimethylpyrrolidine-2-carboxylate is obtained. In the same manner as in Example 1b (b) and using ethyl (2S,4R,5R)-1-tert-butoxycarbonyl-4,5-dimethylpyrrolidine-2-carboxylate, (2S,4R,5R)-1-tert-butoxycarbonyl-4,5-dimethyl-2-hydroxymethylpyrrolidine is obtained. In the same manner as in Example 1b (c) and using (2S,4R,5R)-1-tert-butoxycarbonyl-4,5-dimethyl-2-hydroxymethylpyrrolidine, (2S,4R,5R)-4,5-dimethyl-2-hydroxymethylpyrrolidine hydrochloride is obtained. In the same manner as in Example 1b (d) and using (2S,4R,5R)-4,5-dimethyl-2-hydroxymethylpyrrolidine hydrochloride, 3-[(2S,4R,5R)-4,5-dimethyl-2-hydroxymethylpyrrolidin-1-yl]propionitrile is obtained. In the same manner as in Example 1b (e) and using 3-[(2S,4R,5R)-4,5-dimethyl-2-hydroxymethylpyrrolidin-1-yl]propionitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-(2-[(2S,4R,5R)-4,5-dimethyl-2-hydroxymethylpyrrolidin-1-yl]ethyl)-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | 3-[(2S,4R,5R)-4,5-dimethyl-2-hydroxymethylpyrrolidin-1-yl]propionitrile | C[C@@H]1C[C@H](N([C@@H]1C)CCC#N)CO | C10H18N2O
reactant | N,N-diethyl-2,3-dimethylbenzamide | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
product | 3-(2-[(2S,4R,5R)-4,5-dimethyl-2-hydroxymethylpyrrolidin-1-yl]ethyl)-5-methyl-2H-isoquinolin-1-one | C[C@@H]1C[C@H](N([C@@H]1C)CCC=1NC(C2=CC=CC(=C2C1)C)=O)CO | C19H26N2O2
